US07855216B2
Step 2: 3-(2-Fluoro-4-iodo-phenylamino)-1-(4-hydroxy-but-2-ynyl)-1-H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-hydroxy-ethoxy)-amide
To a stirred solution of 3-(2-fluoro-4-iodo-phenylamino)-1-[4-(tetrahydro-pyran-2-yloxy)-but-2-ynyl]-1-H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide (47.0 mg, 0.075 mmol) in anhydrous MeOH (3.0 mL) under N2 was added 4 M HCl in dioxane (0.10 mL, 0.40 mmol, 5.5 eq), and the reaction mixture was stirred at room temperature. After 3 h the solvent was removed in vacuo and the residue was redissolved in acetonitrile (2.0 mL) and loaded onto Phenomenex Strata-X cartridge (5 g). The cartridge was washed with water (10 mL) and methanol (15 ml). The desired product was then eluted using 2M ammonia in MeOH. Trituration from DCM-hexane afforded the title compound as a yellow solid (14.1 mg, 36.3%). 1H-NMR (400 MHz, DMSO-d6) δ ppm 11.66 (broad s, 1H), 8.58 (s, 1H), 8.36 (d, J=5.86 Hz, 1H), 7.70 (d, J=6.8 Hz, 1H), 7.63 (m, 1H), 7.55 (dd, J=11.03, 1.6 Hz, 1H), 7.26-7.17 (m, 1H), 6.23 (t, J=8.8 Hz, 1H), 5.35 (s, 2H), 5.18 (t, J=5.96 Hz, 1H), 4.80-4.74 (m, 1H), 4.02 (d, J=4.25 Hz, 2H), 3.85 (t, J=4.76 Hz, 2H), 3.60-3.48 (m, 2H); LC-MS (method D): [M+H]+=525.1, RT=1.59 min.

reactant | 3-(2-fluoro-4-iodo-phenylamino)-1-[4-(tetrahydro-pyran-2-yloxy)-but-2-ynyl]-1-H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide | 0.075 mmol, 47.0 mg | C(=C)OCCONC(=O)C1=C(C=2C=NC=CC2N1CC#CCOC1OCCCC1)NC1=C(C=C(C=C1)I)F | C27H28FIN4O5
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 0.40 mmol, 0.10 mL, 5.5 eq | O1CCOCC1 | C4H8O2
solvent | MeOH | 3.0 mL | CO | CH4O
product | 3-(2-Fluoro-4-iodo-phenylamino)-1-(4-hydroxy-but-2-ynyl)-1-H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-hydroxy-ethoxy)-amide | 14.1 mg, 36.3% | OCCONC(=O)C1=C(C=2C=NC=CC2N1CC#CCO)NC1=C(C=C(C=C1)I)F | C20H18FIN4O4
